US05354913
To a solution of methyl (R)-7-(4-fluorophenyl)-7-(3-formyl-6-hydroxy-2,4,5-trimethylphenyl)heptanoate (0.55 g, 1.4 mmol) in tetrahydrofuran (6 ml) was added, under argon atmosphere, 1N sodium hydroxide (2.9 ml). The mixture was stirred for 14 hours at room temperature, to which was added 1N hydrochloric acid (2.9 ml), followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous saline solution, which was dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from acetonitrile to give (R)-7-(4-fluorophenyl)-7-(3-formyl-6-hydroxy-2,4,5-trimethylphenyl)heptanoic acid (0.49 g). Physico-chemical properties and spectral data of this product were shown in [Table 4]. Likewise, Compounds 26, 28, 30 and 31 were prepared.

reactant | methyl (R)-7-(4-fluorophenyl)-7-(3-formyl-6-hydroxy-2,4,5-trimethylphenyl)heptanoate | 1.4 mmol, 0.55 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)OC)C1=C(C(=C(C(=C1O)C)C)C=O)C | C24H29FO4
reactant | sodium hydroxide | 1N, 2.9 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2.9 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | (R)-7-(4-fluorophenyl)-7-(3-formyl-6-hydroxy-2,4,5-trimethylphenyl)heptanoic acid | 0.49 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)O)C1=C(C(=C(C(=C1O)C)C)C=O)C | C23H27FO4
